US06387911B1
2-(Ethylsulfonyl)benzylamine hydrochloride
To a stirred solution of 2-(ethylsulfonyl)benzyltrifluoroacetamide (88 mg, 0.30 mmol) in methanol (11 mL) and water (0.74 mL) was added potassium carbonate (124 mg, 0.90 mmol). The mixture was heated to 65° C. and stirred under Ar overnight. The mixture was then concentrated to a colorless oil which was taken up in EtOAc and washed with a small amount of brine. The aqueous layer was extracted twice with CHCl3 and was then saturated with sodium chloride and further extracted with THF. The combined organic extracts were dried over MgSO4 and concentrated at reduced pressure. The residue was treated with 2 equivalents of 1.0 M HCl in ether. The resulting precipitate was collected by filtration and was dried on a high vacuum line to give the title compound as an off-white solid:

reactant | 2-(ethylsulfonyl)benzyltrifluoroacetamide | 0.30 mmol, 88 mg | C(C)S(=O)(=O)C1=C(CNC(C(F)(F)F)=O)C=CC=C1 | C11H12F3NO3S
reactant | potassium carbonate | 0.90 mmol, 124 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1.0 M, 2 equivalents | Cl | ClH
solvent | methanol | 11 mL | CO | CH4O
solvent | water | 0.74 mL | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-(Ethylsulfonyl)benzylamine hydrochloride | Cl.C(C)S(=O)(=O)C1=C(CN)C=CC=C1 | InChI=1S/C9H13NO2S.ClH/c1-2-13(11,12)9-6-4-3-5-8(9)7-10;/h3-6H,2,7,10H2,1H3;1H
